US04577022
Methyl-5,6,7,8-tetrahydro-3-methylquinoline-8-carboxylate
8-Lithio-5,6,7,8-tetrahydro-3-methyl-8-trimethylsilylquinoline, prepared as in Example 3, is treated with 1 equivalent of methyl chloroformate in THF at -20° C. under nitrogen. After the addition the mixture is allowed to warm to ambient temperature and the solvent removed by evaporation. The residue is dissolved in 2NHCl and washed with ether basified with Na2CO3 and extracted with chloroform. The extracts are dried and evaporated. Distillation of the residue gives the title compound as a pale yellow oil bp 120°/0.25 mm.

reactant | 8-Lithio-5,6,7,8-tetrahydro-3-methyl-8-trimethylsilylquinoline | [Li]C1(CCCC=2C=C(C=NC12)C)[Si](C)(C)C
reactant | methyl chloroformate | 1 equivalent | ClC(=O)OC | C2H3ClO2
solvent | THF | C1CCOC1 | C4H8O
product | Methyl-5,6,7,8-tetrahydro-3-methylquinoline-8-carboxylate | COC(=O)C1CCCC=2C=C(C=NC12)C | C12H15NO2
